US07323475B2
a) 1-(2-Fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester
Synthesized from 1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester and 2-fluorophenol in analogy to Example D-20 d); MS-(+)-ion: M+1=356.1.

reactant | 1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClNO3
reactant | 2-fluorophenol | FC1=C(C=CC=C1)O | C6H5FO
product | 1-(2-Fluoro-phenoxy)-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)OC1=C(C=CC=C1)F | C20H18FNO4
